.title LT1001 Two-Stage Amplifier

VCC vcc 0 DC 15
VEE vee 0 DC -15
Vin in 0 SIN(0 0.02 1k)

Rg1 fb1 0 10k
Rf1 stage1 fb1 10k
XU1 in fb1 vcc vee stage1 LT1001

Rin2 stage1 inv2 2k
Rf2 out inv2 10k
XU2 0 inv2 vcc vee out LT1001
Rload out 0 10k

.tran 0.02m 6m

.MEASURE TRAN vout_pp  PP  V(out) FROM=3m TO=6m
.MEASURE TRAN vout_max MAX V(out) FROM=3m TO=6m
.MEASURE TRAN vout_avg AVG V(out) FROM=3m TO=6m

.end
